US07709647B2
19B. tert-Butyl 1-benzyl-6-chloro-1,2,3,4-tetrahydroquinolin-3-ylcarbamate
To a solution of tert-butyl 6-chloro-1,2,3,4-tetrahydroquinolin-3-ylcarbamate (310 mg, 1.096 mmol), prepared as described in Example 19A, in 1,2-dichloroethane (7 mL) was added benzaldehyde (235 mg, 2.193 mmol), followed by sodium triacetoxyborohydride (650 mg, 3.069 mmol) and AcOH (200 mg, 3.29 mmol). The reaction mixture was stirred at RT for 4 h, then diluted with EtOAc, washed with saturated aqueous NaHCO3, water, saturated aqueous NaCl, dried Na2SO4) and concentrated. The resulting residue was chromatographed (silica gel) eluting with EtOAc/hexanes (1:5 ratio) to give the title compound as light yellow foam (325 mg, 80%).

reactant | tert-butyl 6-chloro-1,2,3,4-tetrahydroquinolin-3-ylcarbamate | 1.096 mmol, 310 mg | ClC=1C=C2CC(CNC2=CC1)NC(OC(C)(C)C)=O | C14H19ClN2O2
reactant | benzaldehyde | 2.193 mmol, 235 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium triacetoxyborohydride | 3.069 mmol, 650 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | AcOH | 3.29 mmol, 200 mg | CC(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 7 mL | ClCCCl | C2H4Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-Butyl 1-benzyl-6-chloro-1,2,3,4-tetrahydroquinolin-3-ylcarbamate | 325 mg, 80% | C(C1=CC=CC=C1)N1CC(CC2=CC(=CC=C12)Cl)NC(OC(C)(C)C)=O | C21H25ClN2O2
